US04892973
In the same manner as in 1-2 of Example 1 except for using the thus obtained 1,1-bis(4-pyrrolidinylphenyl)ethane instead of 1,1-bis(4-dimethylaminophenyl)ethane and using hydrochloric acid instead of nitric acid in 1-2 of Example 1, 1,1-bis(4-pyrrolidinylphenyl)ethylene (m.p. 211° C.) was obtained in a yield of about 50%.

reactant | 1,1-bis(4-pyrrolidinylphenyl)ethane | N1(CCCC1)C1=CC=C(C=C1)C(C)C1=CC=C(C=C1)N1CCCC1 | C22H28N2
reactant | hydrochloric acid | Cl | ClH
product | 1,1-bis(4-pyrrolidinylphenyl)ethylene | yield of about 50% | N1(CCCC1)C1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N1CCCC1 | C22H26N2
